US07790720B2
A suspension of methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazole-5-carboxylate ax60 (4.0 g, 12.9 mmol, 1 eq) in a 1:1 mixture of methanol and water (100 ml) is treated with a 1 M solution of sodium hydroxide (14 ml, 14 mmol, 1.1 eq). The mixture is stirred at 60° C. during 2 h, then the mixture is concentrated. The residue is taken up in water (20 ml) and a 1 M hydrochloric acid solution (14 ml, 14 mmol, 1.1 eq) is added. The resulting suspension is filtered and the filtrate is concentrated to give 3.4 g of 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazole-5-carboxylic acid i43.

reactant | methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazole-5-carboxylate | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)C)C(=O)OC | C15H16ClNO4
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 14 mmol, 14 ml, 1.1 eq | [OH-].[Na+]
reactant | hydrochloric acid | 14 mmol, 1 M, 14 ml, 1.1 eq | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazole-5-carboxylic acid | 3.4 g, Yield: 88% | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)C)C(=O)O | C14H14ClNO4
